US05397798
N-[2-(1-Methyl-1H-imidazol-2-yl)ethyl]-2-[[[3-(trifluoromethyl)phenyl]sulfonyl]amino]benzamide
The titled compound was prepared substantially in accordance with the method set forth in Example 1C using 4.84 g (0.0198 mol) of 2-amino-N-[2-(1-methyl-1H-imidazol-2-yl)ethyl]benzamide (prepared in a similar manner as the compound in Example 6A) and 5.25 g (0.0215 mol) of m-trifluoromethylbenzenesulfonyl chloride. After reducing the organic layer to dryness, the resulting yellow solid was recrystallized from an ethyl acetate/diethyl ether solution to provide 7.8 g of the desired titled compound (m.p. 127°-129° C.)

reactant | 2-amino-N-[2-(1-methyl-1H-imidazol-2-yl)ethyl]benzamide | 0.0198 mol, 4.84 g | NC1=C(C(=O)NCCC=2N(C=CN2)C)C=CC=C1 | C13H16N4O
reactant | m-trifluoromethylbenzenesulfonyl chloride | 0.0215 mol, 5.25 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N-[2-(1-Methyl-1H-imidazol-2-yl)ethyl]-2-[[[3-(trifluoromethyl)phenyl]sulfonyl]amino]benzamide | 7.8 g | CN1C(=NC=C1)CCNC(C1=C(C=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C20H19F3N4O3S
